US08211908B2
To a solution of 0.20 g of tert-butyl (2-propyn-1-yl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate in 6.0 mL of triethylamine, 59 μL of iodopyrazine, 0.57 mg of copper (I) iodide, and 4.2 mg of dichlorobis(triphenylphosphine)palladium(II) were added under a nitrogen atmosphere, and the mixture was stirred at 60 to 70° C. for 4 hours 30 minutes. The insoluble substance was filtered off, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with hexane:ethyl acetate=60:40 to 50:50 to obtain 0.17 g of tert-butyl (3-(pyrazin-2-yl)-2-propyn-1-yl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate as a colorless oily substance.

reactant | tert-butyl (2-propyn-1-yl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate | 0.20 g | C(C#C)N(C(OC(C)(C)C)=O)C1CCN(CC1)C(C(F)(F)F)=O | C15H21F3N2O3
reactant | iodopyrazine | 59 μL | IC1=NC=CN=C1 | C4H3IN2
solvent | triethylamine | 6.0 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 0.57 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 4.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl (3-(pyrazin-2-yl)-2-propyn-1-yl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate | 0.17 g | N1=C(C=NC=C1)C#CCN(C(OC(C)(C)C)=O)C1CCN(CC1)C(C(F)(F)F)=O | C19H23F3N4O3
